US08633322B2
1-Bromo-3,5-dimethoxy-benzene (0.217 g, 0.001 mol) and KCN (0.20 g, 0.003 mol) were taken up into DMSO (10 mL) and the resulting mixture stirred at 120° C. for six hours, then at 150° C. overnight. The mixture was maintained at this temperature, with stirring for another day. The reaction was then quenched with water and the resulting mixture extracted with EtOAc. The organic layer was washed with saturated NaHCO3, brine, then dried over sodium sulfate and the solvent removed in vacuo. The resulting residue was purified on normal phase chromatography (Heptane/EtOAc) to yield 3-bromo-5-methoxyphenol. MH+ 203, 205

reactant | 1-Bromo-3,5-dimethoxy-benzene | 0.001 mol, 0.217 g | BrC1=CC(=CC(=C1)OC)OC | C8H9BrO2
reactant | KCN | 0.003 mol, 0.20 g | [C-]#N.[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 3-bromo-5-methoxyphenol | BrC=1C=C(C=C(C1)OC)O | C7H7BrO2
